US07026314B2
4-(4-Nitrophenyl)-1-methylsulfonylpiperazine (3.83 g, 13.4 mmol), as prepared in Reference Example 12a above, was mixed in methanol (100 ml) and 2 M ammonia in methanol (50 ml) and 10% palladium on carbon (400 mg) was added. The mixture was hydrogenated on a Paar apparatus (50 psi) for 3 h. The reaction was allowed to cool, the catalyst was filtered, washed with methanol then washed with chloroform. The chloroform portion contained a minor amount of the desired but looked purer. The chloroform portion was concentrated in vacuo and was recrystallized ethyl acetate to give 4-[4-(methylsulfonyl)-1-piperazinyl]benzenamine as a shiny brown solid (0.94 g, 27% yield, mp 192–193° C.). GC/MS (EI, M+) m/z=255.

reactant | 4-(4-Nitrophenyl)-1-methylsulfonylpiperazine | 13.4 mmol, 3.83 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)C | C11H15N3O4S
reactant | ammonia | 2 M | N | H3N
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium on carbon | 400 mg | [Pd] | Pd
product | 4-[4-(methylsulfonyl)-1-piperazinyl]benzenamine | 0.94 g, 27% yield | CS(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)N | C11H17N3O2S
